US07915295B2
A mixture of 4-benzyloxybenzoic acid (0.780 g, 3.42 mmol), tert-butyl carbazate (0.443 g, 3.35 mmol), Et3N (0.5 mL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.05 g, 5.47 mmol) and 1-hydroxybenzotriazole hydrate (0.778 g, 5.76 mmol) in N,N-dimethylformamide (27 mL) was stirred at room temperature for 2 days. The reaction was concentrated and diluted in dichloromethane. The organic phase was washed twice with water, dried with MgSO4 and concentrated. The residue was purified on column chromatography (silica gel, 5% MeOH in CH2Cl2) and tert-butyl 2-[4-(benzyloxy)benzoyl]hydrazine carboxylate (0.998 g, yield: 85%) was identified by NMR spectroscopy.

reactant | 4-benzyloxybenzoic acid | 3.42 mmol, 0.780 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | tert-butyl carbazate | 3.35 mmol, 0.443 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.47 mmol, 1.05 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 5.76 mmol, 0.778 g | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 27 mL | CN(C=O)C | C3H7NO
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
product | tert-butyl 2-[4-(benzyloxy)benzoyl]hydrazine carboxylate | 0.998 g, yield: 85% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C19H22N2O4
